US04859662
5-Methyl-1-(triphenylmethyl)-1H-imidazole-4-methanol
A solution of triphenylchloromethane (13.1 g) in dry DMF (80 ml) was added dropwise over 30 min. to a stirred solution of 4-methyl-5-imidazolemethanol hydrochloride (7.0 g) and triethylamine (9.52 g) in dry DMF (75 ml) at room temperature under nitrogen, and stirring was continued for 2.5 h. The suspension was poured onto ice (600 ml), stirred for 30 min. and filtered. The resulting solid (12.0 g) was triturated twice with acetone (2×250 ml) to give the title compound (8.4 g), t.l.c. (System A 94.5:5:0.5) Rf 0.19.

reactant | triphenylchloromethane | 13.1 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | 4-methyl-5-imidazolemethanol hydrochloride | 7.0 g | Cl.CC=1N=CNC1CO
reactant | triethylamine | 9.52 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
product | 5-Methyl-1-(triphenylmethyl)-1H-imidazole-4-methanol | 8.4 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO | C24H22N2O
